US07700782B2
i) Benzyl {2-(tert-butoxycarbonylamino)ethyl}[2-(4-hydroxy-2-oxo-2,3-dihydro-1,3-benzothiazol-7-yl)ethyl]carbamate
7-(2-Aminoethyl)-4-hydroxy-1,3-benzothiazol-2(3H)-one hydrobromide (3.66 g) was suspended in a mixture of THF (50 ml) and water (25 ml). Sodium hydrogen carbonate (1.06 g) was added and the mixture stirred for 15 min. Acetic acid (1.44 ml) was added, followed by a solution of tert-butyl (2-oxoethyl)carbamate (2.0 g) in THF (10 ml), and the mixture stirred for a further 30 min. Sodium cyanoborohydride (1.58 g) was added and the solution stirred for a further 18 h. Ethyl acetate (100 ml) and a solution of sodium hydrogen carbonate (3.17 g) in water (50 ml) were added, the mixture was stirred vigorously, benzyl chloroformate (709 ul) was added, and the mixture stirred for 15 min. A second portion of benzyl chloroformate (170 ul) was added and the mixture stirred for a further 30 min. The reaction mixture was extracted with ethyl acetate (×2) and filtered through celite. The organic extracts were combined, washed with water, dried (anhydrous Na2SO4), filtered and evaporated. The resulting material was purified by flash chromatography on silica using isohexane:ethyl acetate (50:50, 25:75, 100%) as eluent to give the sub-title compound (2.94 g).

reactant | 7-(2-Aminoethyl)-4-hydroxy-1,3-benzothiazol-2(3H)-one hydrobromide | 3.66 g | Br.NCCC1=CC=C(C=2NC(SC21)=O)O
reactant | Sodium hydrogen carbonate | 1.06 g | C(O)([O-])=O.[Na+]
reactant | tert-butyl (2-oxoethyl)carbamate | 2.0 g | O=CCNC(OC(C)(C)C)=O | C7H13NO3
reactant | Sodium cyanoborohydride | 1.58 g | C(#N)[BH3-].[Na+]
reactant | sodium hydrogen carbonate | 3.17 g | C(O)([O-])=O.[Na+]
reactant | benzyl chloroformate | 709 ul | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | benzyl chloroformate | 170 ul | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | 25 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 50 ml | O | H2O
solvent | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | Acetic acid | 1.44 ml | C(C)(=O)O | C2H4O2
product | Benzyl {2-(tert-butoxycarbonylamino)ethyl}[2-(4-hydroxy-2-oxo-2,3-dihydro-1,3-benzothiazol-7-yl)ethyl]carbamate | 2.94 g | C(C)(C)(C)OC(=O)NCCN(C(OCC1=CC=CC=C1)=O)CCC1=CC=C(C=2NC(SC21)=O)O | C24H29N3O6S
